Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.59098803319
[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.779635344989999
[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.31121103655
[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],-7.962420038769999
[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:7]#[C:8][H:9])[O:10][H:11].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-3.71140219883
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.504595807519999
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.95322432848
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1].[O:2]=[C:3]=[C:4][O:5][C:6]([H:7])[H:8],2.2367930461200003
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][H:6],3.89631621186
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[C:9][O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][H:8],5.72188003668
[H:1][C:2]#[C:11][C:7]([C:4]([C:3])([H:5])[H:6])=[C:8]([H:9])[H:10]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1,-1.6292393015200002
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.08334219981
[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.61610945453
[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][H:8]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-6.26033219152
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],-1.03727923691
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.91859966008
[O:1]=[C:2](/[C:3]=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][H:7],1.26341765025
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],6.177127199199999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9],4.58021023584
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],0.79625311538
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.7772866797599998
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],6.08241338845
[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.66810543344
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([H:10])[H:11],2.01979395473
[H:12].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.5139039607
[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.63710349237
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.796159035829
[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.53933117587
